US08669234B2
3-(6-Bromo-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester:
The above mixture of regioisomer 3-(2-Amino-4-bromo-phenylcarbamoyl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester was dissolved in ethanol and heated to 130° C. in sealed tube overnight and continue heating at 170° C. for 3 days. LC-MS showed desired product and Boc cleaved product (about 1:1 ratio). The mixture was concentrated down and dissolved DCM. Di-tert-butyl dicarbonate (0.6 eq.) was added and reaction was stirred overnight at room temperature. The reaction mixture was concentrated down and purified by flash column chromatography (silica gel, 20 to 80% ethyl acetate/hexane) to give 3-(6-Bromo-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (0.383 g, 72%) as an orange foam.

reactant | 3-(2-Amino-4-bromo-phenylcarbamoyl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CCC(C1C(NC1=C(C=C(C=C1)Br)N)=O)C2 | C18H24BrN3O3
solvent | ethanol | C(C)O | C2H6O
product | 3-(6-Bromo-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)Br)C2 | C18H22BrN3O2
